US06458814B1
c) 2-[(4-Amino-1-butyl)amino]pyridine
Crude 2-[[4-(tert-butoxycarbonyl)amino-1-butyl]amino]pyridine (3.13 mmole) was treated with TFA (10 mL) in CH2Cl2 (10 mL). After 2 hr the mixture was concentrated under reduced pressure. The residue was taken up in 1.0 N NaOH (20 mL) and extracted with CHCl3 (4×50 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated under reduced pressure to give the title compound (122 mg, 24%) as a yellow oil: MS (ES) m/e 166 (M+H)+.

reactant | 2-[[4-(tert-butoxycarbonyl)amino-1-butyl]amino]pyridine | 3.13 mmole | C(C)(C)(C)OC(=O)NCCCCNC1=NC=CC=C1 | C14H23N3O2
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-[(4-Amino-1-butyl)amino]pyridine | 122 mg, 24% | NCCCCNC1=NC=CC=C1 | C9H15N3
